US05021481
3,9-Bis[bis(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4yl)amino]-2, 4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane
The title compound is prepared from bis(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)amine and 3,9-dichloro-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane according to the procedure of Example 14.

reactant | bis(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)amine | C1(CCCCC1)ON1C(CC(CC1(C)C)NC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)(C)C | C30H57N3O2
reactant | 3,9-dichloro-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane | ClP1OCC2(CO1)COP(OC2)Cl | C5H8Cl2O4P2
product | 3,9-Bis[bis(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4yl)amino]-2, 4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane | C1(CCCCC1)ON1C(CC(CC1(C)C)N(P1OCC2(CO1)COP(OC2)N(C2CC(N(C(C2)(C)C)OC2CCCCC2)(C)C)C2CC(N(C(C2)(C)C)OC2CCCCC2)(C)C)C2CC(N(C(C2)(C)C)OC2CCCCC2)(C)C)(C)C | C65H120N6O8P2
